US04276285
Sodium Penicillanate 1,1-Dioxide
To a stirred solution of 32.75 g. (0.14 mole) of penicillanic acid 1,1-dioxide in 450 ml. of ethyl acetate was added a solution of 25.7 g. of sodium 2-ethylhexanoate (0.155 mole) in 200 ml. of ethyl acetate. The resulting solution was stirred for 1 hour and then an additional 10% excess of sodium 2-ethylhexanoate in a small volume of ethyl acetate was added. Product immediately began to precipitate. Stirring was continued for 30 minutes and then the precipitate was removed by filtration. It was washed sequentially with ethyl acetate, with 1:1 ethyl acetate-ether and with ether. The solid was then dried over phosphorus pentoxide, at ca. 0.1 mm of Hg for 16 hours at 25° C., giving 36.8 g. of the title sodium salt, contaminated with a small amount of ethyl acetate. The ethyl acetate content was reduced by heating to 100° C. for 3 hours under vacuum. The IR spectrum of this final product (KBr disc) showed absorptions at 1786 and 1608 cm-1. The NMR spectrum (D2O) showed absorptions at 1.48 (s, 3H), 1.62 (s, 3H), 3.35 (d of d's, 1H, J1 =16 Hz, J2 =2 Hz), 3.70 (d of d's, 1H, J1 =16 Hz, J2 =4 Hz), 4.25 (s, 1H) and 5.03 (d of d's, 1H, J1 =4 Hz, J2 =2 Hz) ppm.

reactant | penicillanic acid 1,1-dioxide | 0.14 mole | CC1([C@@H](N2[C@H](S1(=O)=O)CC2=O)C(=O)O)C | C8H11NO5S
reactant | sodium 2-ethylhexanoate | 0.155 mole | C(C)C(C(=O)[O-])CCCC.[Na+]
reactant | sodium | [Na] | Na
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Sodium Penicillanate 1,1-Dioxide | CC1(C(N2C(S1(=O)=O)CC2=O)C(=O)[O-])C.[Na+] | InChI=1S/C8H11NO5S.Na/c1-8(2)6(7(11)12)9-4(10)3-5(9)15(8,13)14;/h5-6H,3H2,1-2H3,(H,11,12);/q;+1/p-1
